US06432947B1
To N-cyanoethylglycine, ethyl ester (15.9 g, 102 mmol) (a compound of formula (Y2)) dissolved in DMSO (70 mL) was added 4-chloro-6-methyl-2-methylsulfonylpyrimidine (18.8 g, 91 mmol) (a compound of formula (Y1)) and diisopropylethylamine (18 mL, 100 mmol). After stirring for 16 hours, the reaction temperature was raised to 70° C. and imidazole (26.5 g, 0.39 mol) was added. After stirring for 1 day, the reaction was cooled to ambient temperature and added to ice water. The solid that formed was suction filtered and collected on paper to give 9.9 g of 2-[(2-cyanoethyl)[2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]acetic acid, ethyl ester (a compound of formula (Yc1)).

reactant | N-cyanoethylglycine, ethyl ester | 102 mmol, 15.9 g | C(#N)CCNCC(=O)OCC | C7H12N2O2
reactant | 4-chloro-6-methyl-2-methylsulfonylpyrimidine | 91 mmol, 18.8 g | ClC1=NC(=NC(=C1)C)S(=O)(=O)C | C6H7ClN2O2S
reactant | diisopropylethylamine | 100 mmol, 18 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | imidazole | 0.39 mol, 26.5 g | N1C=NC=C1 | C3H4N2
solvent | DMSO | 70 mL | CS(=O)C | C2H6OS
product | 2-[(2-cyanoethyl)[2-(1H-imidazol-1-yl)-6-methyl-4-pyrimidinyl]amino]acetic acid, ethyl ester | 9.9 g | C(#N)CCN(CC(=O)OCC)C1=NC(=NC(=C1)C)N1C=NC=C1 | C15H18N6O2
